US09126931B2
9-Hydroxy-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile
6-Cyano-2-[1-(4-isopropoxy-3-methoxy-phenyl)-1-methyl-ethyl]-1H-indole-3-carboxylic acid ethyl ester (Compound L7, 1.25 g, 2.97 mmol) was dissolved in MeCN (18 mL), added with methanesulfonic acid (3.75 mL), and then stirred at 50° C. for 8 hr. Hexane was added to the reaction solution, and the precipitated solid was filtered to obtain the title compound (yellow solid, 185 mg, 19%).

reactant | 6-Cyano-2-[1-(4-isopropoxy-3-methoxy-phenyl)-1-methyl-ethyl]-1H-indole-3-carboxylic acid ethyl ester | 2.97 mmol, 1.25 g | C(C)OC(=O)C1=C(NC2=CC(=CC=C12)C#N)C(C)(C)C1=CC(=C(C=C1)OC(C)C)OC | C25H28N2O4
reactant | methanesulfonic acid | 3.75 mL | CS(=O)(=O)O | CH4O3S
reactant | Hexane | CCCCCC | C6H14
solvent | MeCN | 18 mL | CC#N | C2H3N
product | 9-Hydroxy-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 185 mg, 19% | OC1=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C=C1OC | C20H16N2O3
